US07361763B2
Step 2: N-(2-Dimethylamino-ethyl)-3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N-methyl-benzamide
To a solution of 3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid (21 mg, 0.06 mmol) in anhydrous DMF (1 mL) was added HATU (23 mg, 0.06 mmol) and N,N,N′-trimethylethylenediamine (7.9 μL, 0.06 mmol). The reaction solution was stirred 16 hours at ambient temperature then diluted with DMSO (1 mL), filtered through a 0.45 um syringe filter, and purified by reverse phase chromatography in a mobile phase of H2O and acetonitrile (with 0.1% formic acid as the modifier). Clean fractions were combined and lyophilized, affording the title compound as a white powder (14.0 mg, 54% yield). 1H NMR (500 MHz, CD3OD) δ8.51 (d, J=2.0 Hz, 1H), 8.29 (d, J=2.0 Hz, 1H), 7.83 (br s, 1H), 7.81 (bs, 1H), 7.69 (s, 1H), 7.60 (m, 2H), 7.49 (m, 1H), 7.32 (t, J=7.5 Hz, 1H), 7.13 (d, 8.5 Hz, 1H), 7.07 (t, J=6.5 Hz, 1H), 3.90 (t, J=6.0 Hz, 2H), 3.86 (s, 3H), 3.33 (s, 3H), 3.17 (s, 3H), 2.91 (s, 3H), 2.80 (br s, 2H). MS: m/e 429.1 (M+H+).

reactant | 3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.06 mmol, 21 mg | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2 | C21H16N2O3
reactant | HATU | 0.06 mmol, 23 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N,N′-trimethylethylenediamine | 0.06 mmol, 7.9 μL | CN(CCNC)C | C5H14N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-(2-Dimethylamino-ethyl)-3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N-methyl-benzamide | 14.0 mg, 54% yield | CN(CCN(C(C1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)=O)C)C | C26H28N4O2
